US05998447
3b) tert-Butyl (S)-2-amino-3-tert-butoxycarbonylaminopropionate hydrochloride
8.9 g (40.8 mmol) of di-tert-butyl dicarbonate and then, in portions, 1N NaOH were added at 0° C. to a solution of 10 g (34 mmol) of tert-butyl (S)-3-amino-2-benzyloxycarbonylaminopropionate in 600 ml of THF/water (2/1) such that the pH of the solution was between 9 and 10 (consumption of 1N NaOH:32 ml). After stirring at room temperature for 3 h, 1 l of water was added and the mixture was extracted three times with diethyl ether. After drying over sodium sulfate, filtering and removing the solvent in vacuo, the residue was chromatographed on silica gel using dichloromethane/methanol (20/1). 13.19 g (98%) of tert-butyl (S)-2-benzyloxycarbonylamino-3-tert-butoxycarbonylaminopropionate were obtained. 13.1 g of the tert-butyl (S)-2-benzyloxycarbonylamino-3-tert-butoxycarbonylamino-propionate were hydrogenated over 10% Pd/C in methanol/HCl. After 1.5 h, the mixture was filtered and the filtrate was concentrated in vacuo. 9.77 g (99%) of the title compound were obtained as a colorless solid.

reactant | tert-butyl (S)-2-benzyloxycarbonylamino-3-tert-butoxycarbonylamino-propionate | 13.1 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)OC(C)(C)C)CNC(=O)OC(C)(C)C | C20H30N2O6
reactant | methanol HCl | CO.Cl
catalyst | Pd/C | [Pd] | Pd
product | tert-Butyl (S)-2-amino-3-tert-butoxycarbonylaminopropionate hydrochloride | 9.77 g, 99% | Cl.N[C@H](C(=O)OC(C)(C)C)CNC(=O)OC(C)(C)C | InChI=1S/C12H24N2O4.ClH/c1-11(2,3)17-9(15)8(13)7-14-10(16)18-12(4,5)6;/h8H,7,13H2,1-6H3,(H,14,16);1H/t8-;/m0./s1
